US05219871
Preparation of 3-(N-benzyl-N-methylamino)-3-methylbutan-1-ol
A solution of ethyl 3-(N-benzyl-N-methylamino)-3-methylbutanoate (23.6 g-see Preparation 9) in anhydrous tetrahydrofuran (100 ml) was added, dropwise, over 20 minutes to a stirred suspension of lithium aluminium hydride (7.2 g) in anhydrous tetrahydrofuran (300 ml). When the addition was complete, the mixture was stirred at room temperature for 3 hours. Water (7 ml) was carefully added dropwise followed by 15% aqueous sodium hydroxide (7 ml) and finally more water (20 ml). The resulting solid precipitate was filtered off and washed with ethyl acetate (3×50 ml). The filtrate and washings were combined and concentrated in vacuo to give the title compound as a colourless, mobile oil, yield 19.0 g.

reactant | ethyl 3-(N-benzyl-N-methylamino)-3-methylbutanoate | 23.6 g | C(C1=CC=CC=C1)N(C)C(CC(=O)OCC)(C)C | C15H23NO2
reactant | lithium aluminium hydride | 7.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 7 ml | O | H2O
reactant | sodium hydroxide | 7 ml | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-(N-benzyl-N-methylamino)-3-methylbutan-1-ol | C(C1=CC=CC=C1)N(C)C(CCO)(C)C | C13H21NO
